US05922697
Step 2: 5-(tert-Butoxycarbonylamino-methyl)-2-hydroxy-benzoic acid
To a solution of 5-aminomethylsalicyclic acid (8.3 g, 49.7 mmol) in 100 mL water and 100 mL of dioxane at 0° C. was added 1N sodium hydroxide (54.7 mL, 54.7 mmol) followed by di-tert-butyl dicarbonate (11.9 g, 54.7 mmol). The reaction was allowed to warm slowly to room temperature and stirred overnight. The reaction was then concentrated under reduced pressure to 15 mL. A layer of ethyl acetate was then added, and the reaction was acidified to pH 2 with saturated potassium hydrogen sulfate. The aqueous layer was then extracted with ethyl acetate (3×150 mL). The combined ethyl acetate layers were combined and washed with saturated sodium chloride (1×150 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield a white powder. The powder was collected and washed with ether, followed by drying under reduced pressure to yield (11.5 g, 87%). 1H NMR (400 MHz, DMSO): δ 7.67 (s, 1H), 7.38 (d, 2H), 6.91 (d, 1H), 4.04 (d, 2H), 1.41 (s, 9H). Mass Spectrum (Chemical Ionization, 1% NH3 in CH4) m/z 268 (M+H).

reactant | 5-aminomethylsalicyclic acid | 49.7 mmol, 8.3 g | NCC1=CC=C(C(C(=O)O)=C1)O | C8H9NO3
reactant | sodium hydroxide | 54.7 mmol, 1N, 54.7 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 54.7 mmol, 11.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH3 | N | H3N
solvent | water | 100 mL | O | H2O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | CH4 | C | CH4
product | 5-(tert-Butoxycarbonylamino-methyl)-2-hydroxy-benzoic acid | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C(=O)O)C1)O | C13H17NO5
